US05151113
Preparation of Ethyl 2-(4,6-Dimethyl-2-pyrimidinyloxy)acetate.
A solution containing 4,6-dimethyl-2-methylsulfonylpyrimidine (10.0 g, 53.8 mmol), ethyl glycolate (5.60 g, 53.8 mmol), and 30 mL of N,N -dimethylformamide was prepared and to this was added with stirring potassium carbonate (8.0 g, 60 mmol). The mixture was allowed to stir at ambient temperature overnight. It was then poured into water and the resulting mixture was extracted 3 times with ethyl acetate. The combined organic extracts were extracted with water. The aqueous extract was saturated with sodium chloride and extracted twice more with ethyl acetate. All of the ethyl acetate layers were combined, dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain 8.20 g (72.6 percent of theory) of the title compound as a yellow oil. This oil was filtration chromatographed on silica gel, eluting with a 30:70 mixture of ethyl acetate and hexane. The product containing eluate was concentrated by evaporation under reduced pressure to obtain 7.9 g (70 percent of theory) of the title compound as a colorless oil which solidified on standing to a white solid melting at 57°-59° C.

reactant | 4,6-dimethyl-2-methylsulfonylpyrimidine | 53.8 mmol, 10.0 g | CC1=NC(=NC(=C1)C)S(=O)(=O)C | C7H10N2O2S
reactant | ethyl glycolate | 53.8 mmol, 5.60 g | C(CO)(=O)OCC | C4H8O3
reactant | N,N -dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 60 mmol, 8.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | Ethyl 2-(4,6-Dimethyl-2-pyrimidinyloxy)acetate | CC1=NC(=NC(=C1)C)OCC(=O)OCC | C10H14N2O3
